US07723347B2
N-(2-Fluoro-4-nitrophenyl)-3-methyl-1-{[2-(trimethylsilyl)ethoxy]methyl}-1H-pyrrolo[2,3-b]pyridine-4-amine
A solution of 29 mg (100 μmol) of 3-methyl-1-{[2-(trimethylsilyl)ethoxy]methyl}-1H-pyrrolo[2,3-b]pyridine-4-amine, 33 mg (130 μmol) of 2-fluoro-1-iodo-4-nitrobenzene, 5 mg (10 μmol) of tris-(dibenzylideneacetone)dipalladium, 6 mg (10 mmol) of 1,1′-bis(diphenylphosphino)ferrocene and 14 mg (150 mmol) of sodium tert-butoxide in 3 ml of degassed toluene is stirred at 100° C. overnight. After cooling to RT, the reaction mixture is directly applied to a silica gel column and separated (mobile phase: cyclohexane/ethyl acetate 10:1 to 8:2).

reactant | 3-methyl-1-{[2-(trimethylsilyl)ethoxy]methyl}-1H-pyrrolo[2,3-b]pyridine-4-amine | 100 μmol, 29 mg | CC1=CN(C=2N=CC=C(C21)N)COCC[Si](C)(C)C | C14H23N3OSi
reactant | 2-fluoro-1-iodo-4-nitrobenzene | 130 μmol, 33 mg | FC1=C(C=CC(=C1)[N+](=O)[O-])I | C6H3FINO2
reactant | sodium tert-butoxide | 150 mmol, 14 mg | CC(C)([O-])C.[Na+]
solvent | toluene | 3 ml | C1(=CC=CC=C1)C | C7H8
catalyst | tris-(dibenzylideneacetone)dipalladium | 10 μmol, 5 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
catalyst | 1,1′-bis(diphenylphosphino)ferrocene | 10 mmol, 6 mg | C1(=CC=CC=C1)P([C-]1C=CC=C1)C1=CC=CC=C1.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2]
product | N-(2-Fluoro-4-nitrophenyl)-3-methyl-1-{[2-(trimethylsilyl)ethoxy]methyl}-1H-pyrrolo[2,3-b]pyridine-4-amine | FC1=C(C=CC(=C1)[N+](=O)[O-])NC=1C2=C(N=CC1)N(C=C2C)COCC[Si](C)(C)C | C20H25FN4O3Si
